US03976633
To 21 g. of dry pyridine is added slowly with stirring 23 g. (0.26 mol.) of cuprous cyanide. The mixture rapidly solidifies and is then heated to 125°. Excess pyridine is boiled off and the temperature is decreased to 110°. 3-Amino-2-bromobenzotrifluoride (48 g., 0.20 mol.) is added with stirring and the reaction mixture is heated to 165°-170° for 75 minutes. The mixture is then cooled to 90° and a solution of 75 g. (1.05 mol.) of sodium cyanide in 75 ml. of water is added followed by 250 ml. of benzene. The resulting mixture is stirred for one hour, the layers are separated and the benzene layer is washed with water, dried and evaporated to give 2-cyano-3-trifluoromethylaniline.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 3-Amino-2-bromobenzotrifluoride | 0.20 mol, 48 g | NC=1C(=C(C=CC1)C(F)(F)F)Br | C7H5BrF3N
reactant | sodium cyanide | 1.05 mol | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-cyano-3-trifluoromethylaniline | C(#N)C1=C(N)C=CC=C1C(F)(F)F | C8H5F3N2
